US05420126
In a mixture of 34 ml of methanol and 2.07 ml of acetic acid was dissolved 3 g of 3,4-dihydro-2,2-dimethyl-6-nitro-2H-1,4-benzoxazine. Then, a solution of 2.0 g of sodium nitrite in 6.6 ml of water was added dropwise and the mixture was stirred at room temperature overnight. The reaction mixture was neutralized with aqueous sodium hydroxide solution, concentrated under reduced pressure and extracted with chloroform. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to give 3.2 g of 3,4-dihydro-2,2-dimethyl-6-nitro-4-nitroso-2H-1,4-benzoxazine.

reactant | 3,4-dihydro-2,2-dimethyl-6-nitro-2H-1,4-benzoxazine | 3 g | CC1(OC2=C(NC1)C=C(C=C2)[N+](=O)[O-])C | C10H12N2O3
reactant | sodium nitrite | 2.0 g | N(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 34 ml | CO | CH4O
solvent | acetic acid | 2.07 ml | C(C)(=O)O | C2H4O2
solvent | water | 6.6 ml | O | H2O
product | 3,4-dihydro-2,2-dimethyl-6-nitro-4-nitroso-2H-1,4-benzoxazine | 3.2 g | CC1(OC2=C(N(C1)N=O)C=C(C=C2)[N+](=O)[O-])C | C10H11N3O4
